US06197729B1
d) 4-(2,2,2-trifluoro-1-methylethyl)phenol
At 60 to 70° C. and under atmospheric pressure, 9.2 g of 4-[1-(trifluoromethyl)vinyl]-1-methoxybenzene in 50 ml of glacial acetic acid were hydrogenated in the presence of 0.26 g of Pd/C (10%) until no further uptake was visible. The catalyst was filtered off, the reaction solution was mixed with 22.7 g of aqueous hydrobromic acid (48%) and heated under reflux for 21 h. The reaction solution was concentrated, taken up in ethyl acetate, washed with aqueous sodium hydrogen carbonate, dried and concentrated to give the title product which was reacted further without any purification.

reactant | 4-[1-(trifluoromethyl)vinyl]-1-methoxybenzene | 9.2 g | FC(C(=C)C1=CC=C(C=C1)OC)(F)F | C10H9F3O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.26 g | [Pd] | Pd
product | 4-(2,2,2-trifluoro-1-methylethyl)phenol | FC(C(C)C1=CC=C(C=C1)O)(F)F | C9H9F3O
